US05162350
6-Acetylbenzothiazolinone
To a solution containing 0.5 mol of anhydrous aluminium chloride in 0.20 mol of dimethylformamide is added 0.05 mol of benzothiazolinone, then, slowly and with agitation, 0.06 mol of acetyl chloride.

reactant | aluminium chloride | 0.5 mol | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | dimethylformamide | 0.20 mol | CN(C=O)C | C3H7NO
reactant | benzothiazolinone | 0.05 mol | S1(C=NC2=C1C=CC=C2)=O | C7H5NOS
reactant | acetyl chloride | 0.06 mol | C(C)(=O)Cl | C2H3ClO
product | 6-Acetylbenzothiazolinone | C(C)(=O)C1=CC2=C(N=CS2=O)C=C1 | C9H7NO2S
